US04182865
A 4.8 g (0.036 mole) sample of 2-amino-1-methylimidazole hydrochloride is suspended in 20 ml of methylene chloride and stirred with 10 ml of 50% NaOH. The organic layer is separated and the aqueous layer is extracted twice with 20 ml portions of fresh methylene chloride. The combined organic extracts are dried over K2CO3 and filtered. The filtrate is treated with 4.86 g (0.036 mole) of phenyl isothiocyanate. The solution is heated under reflux for 4 hr. Evaporation of the solvent in vacuo followed by recrystallization of the residue from acetone-ether (1:1) and MeOH-ether (1:1) gives the product, N-(1-methylimidazol-2-yl)-N'-phenylthiourea; m.p. 170°-172° C.

reactant | 2-amino-1-methylimidazole hydrochloride | Cl.NC=1N(C=CN1)C
reactant | NaOH | 10 ml | [OH-].[Na+]
reactant | phenyl isothiocyanate | 0.036 mole, 4.86 g | C1(=CC=CC=C1)N=C=S | C7H5NS
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(1-methylimidazol-2-yl)-N'-phenylthiourea | CN1C(=NC=C1)NC(=S)NC1=CC=CC=C1 | C11H12N4S
